US07790895B2
N,N,N′-trimethylethane (1.55 ml, 12 mmol) was dissolved in THF (30 mL) and cooled to −78° C. 2.5 M n-butyllithium (4.4 mL) was then added to the reaction mixture, which was then stirred for 15 min, before addition of pyridine-3-carbaldehyde (0.94 mL, 10 mmol). The reaction mixture was maintained at −78° C. for 15 min, then n-butyllithium (8 mL) was added slowly so that the temperature was always below −42° C. The reaction mixture was stirred for 1 hour at −42° C., then cooled to −78° C. Benzaldehyde (3 mL) was then added slowly into the reaction mixture, which was then stirred for 15 min. The reaction mixture was quenched with ammonium chloride and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and purified by flash chromatography eluted with 5% methanol in dichloromethane to yield 1-phenyl-1,3-dihydro-furo[3,4-c]pyridin-3-ol as a yellow solid.

reactant | n-butyllithium | 2.5 M, 4.4 mL | C(CCC)[Li]
reactant | pyridine-3-carbaldehyde | 10 mmol, 0.94 mL | N1=CC(=CC=C1)C=O | C6H5NO
reactant | n-butyllithium | 8 mL | C(CCC)[Li]
reactant | Benzaldehyde | 3 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-phenyl-1,3-dihydro-furo[3,4-c]pyridin-3-ol | C1(=CC=CC=C1)C1OC(C=2C=NC=CC21)O | C13H11NO2
